US08138178B2
To a solution of 3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-2-oxo-1,3-oxazinan-6-yl)-2-methylpropanenitrile (0.332 g, 0.746 mmol) and MeI (1.40 g, 13 equiv) in THF (12 mL) at −78° C. was added 2.4 mL (2.4 mmol, 3.2 equiv) of a 1.0 M LiHMDS solution in THF. The resulting mixture was stirred overnight, with the temperature slowly rising to ambient. The reaction mixture was quenched with brine (1 mL), diluted with CH2Cl2, and dried over Na2SO4. After the solvents were evaporated, the residue was purified by reversed-phase HPLC (SunFire™ Prep C18 OBD™ 5 μm 19×50 mm column, 10%→90% CH3CN/H2O, 0.1% CF3COOH over 8 min and then 90% CH3CN/H2O, 0.1% CF3COOH over 2 min, flow rate 20 mL/min) to afford 0.255 g (74%) of 3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-2-oxo-1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile. LC-MS Method 1 tR=1.89 min, m/z 459, 461 (MH+); 1H NMR (400 MHz, CD3OD) δ 7.31-7.27 (m, 2H), 7.22-7.18 (m, 2H), 7.04-6.99 (m, 2H), 6.83 (d, J=8.2 Hz, 2H), 5.41 (q, J=7.0 Hz, 1H), 3.02-2.97 (m, 1H), 2.42-2.36 (m, 1H), 2.29-2.08 (m, 4H), 1.42 (d, J=7.0 Hz, 3H), 1.30 (s, 3H), 1.22 (s, 3H); 19F NMR (376 MHz, CD3OD) δ −116.50 (m).

reactant | 3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-2-oxo-1,3-oxazinan-6-yl)-2-methylpropanenitrile | 0.746 mmol, 0.332 g | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=C(C=C1)F)CC(C#N)C)=O | C22H22BrFN2O2
reactant | MeI | 1.40 g, 13 equiv | CI | CH3I
reactant | LiHMDS | 1.0 M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-2-oxo-1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile | 0.255 g, 74% | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=C(C=C1)F)CC(C#N)(C)C)=O | C23H24BrFN2O2
